US07951794B2
At −78° C., a solution of 4-phenylthiophene-2-carboxylic acid (800 mg, 3.92 mmol) in THF (10 mL) is treated with tert.-BuLi (8 mL, 1.6 M in pentane). The mixture is stirred at −70° C. for 40 min before iodomethane (1 mL) is added. Stirring is continued for 5 h at −78° C., then the reaction mixture is allowed to warm to rt overnight. The reaction is quenched with sat. aq. NH4Cl and extracted with EA. The organic extract is dried over MgSO4, the solvent is removed and the crude product is purified by CC on silica gel eluting with DCM containing 3% of methanol to give 5-ethyl-4-phenyl-thiophene-2-carboxylic acid (340 mg) as a red solid; LC-MS: tR=0.95 min, [M+1+MeCN]+=274.15; 1H NMR (CDCl3): δ 7.79 (s, 1H), 7.46-7.31 (m, 5), 2.92 (q, J=7.6 Hz, 2H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 4-phenylthiophene-2-carboxylic acid | 3.92 mmol, 800 mg | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)O | C11H8O2S
reactant | BuLi | 1.6 M, 8 mL | [Li]CCCC
reactant | iodomethane | 1 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-ethyl-4-phenyl-thiophene-2-carboxylic acid | 340 mg | C(C)C1=C(C=C(S1)C(=O)O)C1=CC=CC=C1 | C13H12O2S
